US06562989B2
N-n-hexyl-4-phenylcarbonylaniline (Table 7, Entry 5)
According to the general procedure B, 4-Bromobenzophenone (131 mg, 0.50 mmol) reacted with n-hexylamine (52 mg, 0.52 mmol) using 1 mol % of Pd(dba)2, 2 mol % of Ph5FcP(t-Bu)2, and sodium tert-butoxide (58 mg, 0.60 mmol) in toluene at 50° C. for 13 h to give the title compound (134 mg, 93%) as a solid: 1H-NMR (300 MHz, CDCl3): δ 7.74, (t, 4H, J=8.4 Hz), 7.53-7.43 (m, 3H), 6.58 (d, 2H, J=8.7 Hz), 4.46 (bs, 1H), 3.17 (t, 2H, J=6.6 Hz), 1.61 (m, 2H), 1.42-1.32 (m, 6H), 0.91 (t, 3H, J=6.6 Hz). 13C{1H}-NMR (100 MHz, CDCl3): δ 195.00, 152.27, 139.11, 132.93, 131.00, 129.30, 127.89, 125.42, 111.02, 43.17, 31.44, 29.09. GC/MS(EI): m/z 281 (M+).

reactant | 4-Bromobenzophenone | 0.50 mmol, 131 mg | BrC1=CC=C(C(=O)C2=CC=CC=C2)C=C1 | C13H9BrO
reactant | n-hexylamine | 0.52 mmol, 52 mg | C(CCCCC)N | C6H15N
reactant | sodium tert-butoxide | 0.60 mmol, 58 mg | CC(C)([O-])C.[Na+]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(dba)2 | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd]
product | N-n-hexyl-4-phenylcarbonylaniline | 134 mg, 93% | C(CCCCC)NC1=CC=C(C=C1)C(=O)C1=CC=CC=C1 | C19H23NO
